US07323472B2
4-(1-Ethyl-propylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 4-fluoro-2-methyl-phenylboronic acid to give the title compound 4-(1-ethyl-propylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 0.92 (m, 6H), 1.54-1.71 (m, 4H), 2.21 (s, 3H), 2.53 (s, 3H), 4.28 (m, 1H), 6.63-7.05 (m, 2H), 7.21 (m, 1H), 9.05 (br s, 1H), 10.50 (s, 1H). LC MS (m/e)=348 (MH+).

reactant | 4-chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC(CC)CC)SC | C11H16ClN3OS
reactant | 4-fluoro-2-methyl-phenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4-(1-ethyl-propylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | C(C)C(CC)NC1=NC(=NC(=C1C=O)C1=C(C=C(C=C1)F)C)SC | C18H22FN3OS
